US08377954B2
Ethyl 3-[(1-benzyl-4-cyanopiperidin-4-yl)(3-fluorophenyl)amino]-3-oxopropanoate
To a solution of 1-benzyl-4-[(3-fluorophenyl)amino]piperidine-4-carbonitrile (Intermediate 1A.1-1, 9.0 g, 29.1 mmol) in dichloromethane (150 ml) were added ethyl malonyl chloride (4.9 ml, 37.8 mmol) and 2,6-lutidine (5.1 ml, 43.6 mmol). The reaction was allowed to stir at rt for 2.5 h. Additional ethyl malonyl chloride (1.1 ml, 8.7 mmol) was added, and the reaction was allowed to stir for 30 min. The reaction was diluted with dichloromethane and washed with water and brine. The organic portion was dried over sodium sulfate, filtered, and concentrated in vacuo to yield a 1:1 mixture of desired ester ethyl 3-[(1-benzyl-4-cyanopiperidin-4-yl)(3-fluorophenyl)amino]-3-oxopropanoate and its acid 3-[(1-benzyl-4-cyanopiperidin-4-yl)(3-fluorophenyl)amino]-3-oxopropanoic acid (quant).

reactant | 1-benzyl-4-[(3-fluorophenyl)amino]piperidine-4-carbonitrile | 29.1 mmol, 9.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)NC1=CC(=CC=C1)F | C19H20FN3
reactant | ethyl malonyl chloride | 37.8 mmol, 4.9 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | 2,6-lutidine | 43.6 mmol, 5.1 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | ethyl malonyl chloride | 8.7 mmol, 1.1 ml | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | 3-[(1-benzyl-4-cyanopiperidin-4-yl)(3-fluorophenyl)amino]-3-oxopropanoic acid | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)N(C(CC(=O)O)=O)C1=CC(=CC=C1)F | C22H22FN3O3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Ethyl 3-[(1-benzyl-4-cyanopiperidin-4-yl)(3-fluorophenyl)amino]-3-oxopropanoate | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)N(C(CC(=O)OCC)=O)C1=CC(=CC=C1)F | C24H26FN3O3
